US05679696
A solution of 4-bromo-2-cyclopentyloxy-1-(methylthio)benzene (13.2 g) in dry tetrahydrofuran (100 mL) under nitrogen is treated at -70° C. with a solution of butyllithium in hexane (20.24 mL; 2.5M) and the resulting solution is stirred for 1 hour at this temperature. It is then treated with dimethylformamide (7.12 mL), followed by boron trifluoride diethyl etherate (11.32 mL), keeping the temperature at -65° C. When the addition is complete the reaction mixture is allowed to warm to room temperature and is then poured into ice-water (450 mL) and extracted with dichloromethane (3×400 mL). The combined extracts are dried over magnesium sulfate and concentrated to give an oil, which is subjected to flash chromatography, eluting with a mixture of dichloromethane and cyclohexane (3:7 v/v), to give 3-cyclopentyloxy-4-(methylthio)-benzaldehyde (6.2 g). [NMR (DMSO): 9.91(S,1H),7.53(dd, 1H),7.36(d,1H), 7.33(d,1H),5.01 (m,1H),2.44(s,3H),2.0-1.5(m,8H)].

reactant | 4-bromo-2-cyclopentyloxy-1-(methylthio)benzene | 13.2 g | BrC1=CC(=C(C=C1)SC)OC1CCCC1 | C12H15BrOS
reactant | butyllithium | C(CCC)[Li]
reactant | dimethylformamide | 7.12 mL | CN(C=O)C | C3H7NO
reactant | boron trifluoride diethyl etherate | 11.32 mL | B(F)(F)F.CCOCC
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | hexane | 2.5M, 20.24 mL | CCCCCC | C6H14
product | 3-cyclopentyloxy-4-(methylthio)-benzaldehyde | 6.2 g | C1(CCCC1)OC=1C=C(C=O)C=CC1SC | C13H16O2S
